US08486984B2
1.1 5-Nitro-1H-indole-2-carboxylic acid
To a solution of ethyl-5-nitro-1H-indole-2-carboxylate (22.7 g, 96.83 mg) in ethanol (EtOH) (150 ml) sodium hydroxide (11.62 g, 290.5 mmol) was added. The mixture was stirred at room temperature for 16 h. During this time a brown solid formed. After evaporation of the solvent under reduced pressure the residue was suspended in water and HCl was added. The color of the precipitate changed from brown to yellow. After filtration the residue was washed with water and dried in a vacuum oven at 50° C. to give the product as a brown powder (19.53 g, 98%).

reactant | ethyl-5-nitro-1H-indole-2-carboxylate | 22.7 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C11H10N2O4
reactant | ethanol | 290.5 mmol, 150 ml, 11.62 g | C(C)O | C2H6O
product | 5-Nitro-1H-indole-2-carboxylic acid | 19.53 g, 98% | [N+](=O)([O-])C=1C=C2C=C(NC2=CC1)C(=O)O | C9H6N2O4
